US04975431
Cycloheptanone was converted to an enamine by reaction with pyrrolidine in toluene solvent and in the presence of toluenesulphonic acid. The enamine was alkylated with methacrylonitrile in ethanol solvent and hydrolysed using acetic acid according to the procedure of Stark et al, J. Amer. Chem, Soc., 85, 207 (1963) to give 2-(2-cyanopropyl)cycloheptanone (bp 100° C./0.02 mmHg).

reactant | Cycloheptanone | C1(CCCCCC1)=O | C7H12O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | toluenesulphonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(2-cyanopropyl)cycloheptanone | C(#N)C(CC1C(CCCCC1)=O)C | C11H17NO
